US04709068
To 48 ml of a 1M diethyl ether solution of lithium aluminum hydride (1.82 g, 0.048 mole) that had been cooled to 0° C. was added dropwise a solution of 11.0 g (0.044 mole) of 2-(4-ethoxyphenyl)-2-methyl-2-silapropyl acetate in 50 ml of diethyl ether. Fifteen minutes after the addition was complete, the reaction mixture was allowed to warm to room temperature, and it was stirred for 4.5 hours. To the reaction mixture were then added sequentially 1.8 ml of water, 1.8 ml of an aqueous 15% solution of sodium hydroxide, and 5.4 ml of water. Sufficient aqueous 10% sulfuric acid was added to dissolve the undissolved salts, and this mixture was extracted twice with diethyl ether. The combined extracts were washed with water and then with a saturated aqueous sodium carbonate solution that had been diluted with water (50:50). After being dried over anhydrous potassium carbonate and filtered, the solvent was evaporated under reduced pressure, leaving 8.0 g of 2-(4-ethoxyphenyl)-2-methyl-2-silapropanol as an orange oil. The nmr spectrum was consistent with the proposed structure.

reactant | lithium aluminum hydride | 0.048 mole, 1.82 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-ethoxyphenyl)-2-methyl-2-silapropyl acetate | 0.044 mole, 11.0 g | C(C)(=O)OC[Si](C)(C)C1=CC=C(C=C1)OCC | C13H20O3Si
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1M | C(C)OCC | C4H10O
solvent | water | 5.4 ml | O | H2O
solvent | water | 1.8 ml | O | H2O
product | 2-(4-ethoxyphenyl)-2-methyl-2-silapropanol | 8.0 g | C(C)OC1=CC=C(C=C1)[Si](CO)(C)C | C11H18O2Si
